US07812031B2
2-Dimethylamino-4-(3,4-dichlorophenyl)pyrimidine-5-carboxylic acid [2-(3-benzyloxyphenyl)-2-hydroxyethyl]methylamide (I)
The mixture of 2-dimethylamino-4-(3,4-dichlorophenyl)pyrimidine-5-carboxylic acid [2-hydroxy-2-(3-hydroxyphenyl)ethyl]methylamide (0.92 g, 2 mmol), benzylbromide (1.71 g, 10 mmol), cesium carbonate (1.30 g, 4 mmol) and acetonitrile (25 ml) are boiled under stirring for 5 hours. The reaction mixture is evaporated in vacuum, dichloromethane (50 ml) is added to it, washed with water (3×50 ml), dried over sodium sulphate and evaporated. The residue is chromatographed on silicagel, using dichloromethane—methanol 100/1 mixture as eluent. 0.50 g (45.4%) of pale-yellow crystalline material is obtained, m.p.: 68-70° C.; [M+H]+ 551.

reactant | 2-dimethylamino-4-(3,4-dichlorophenyl)pyrimidine-5-carboxylic acid [2-hydroxy-2-(3-hydroxyphenyl)ethyl]methylamide | 2 mmol, 0.92 g | OC(CN(C(=O)C=1C(=NC(=NC1)N(C)C)C1=CC(=C(C=C1)Cl)Cl)C)C1=CC(=CC=C1)O | C22H22Cl2N4O3
reactant | benzylbromide | 10 mmol, 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 4 mmol, 1.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-Dimethylamino-4-(3,4-dichlorophenyl)pyrimidine-5-carboxylic acid [2-(3-benzyloxyphenyl)-2-hydroxyethyl]methylamide | 0.50 g, 45.4% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CN(C(=O)C=1C(=NC(=NC1)N(C)C)C1=CC(=C(C=C1)Cl)Cl)C)O | C29H28Cl2N4O3
